US06335451B1
b) 4′-(4-Chloro-5-formyl-2-phenylimidazol-1-ylmethyl)biphenyl-2-sulfonamide
1.9 g of 4′-(4-chloro-5-formyl-2-phenylimidazol-1-ylmethyl)biphenyl-2-sulfonic acid dimethylaminomethylenamide were dissolved in 20 ml of ethanol and 20 ml of a saturated aqueous HCl solution were added. The mixture was heated under reflux for 2 hours, then the volatile constituents were removed in vacuo, the residue was taken up using 200 ml of water, the solution was adjusted to pH-7 using aqueous NaOH solution and stirred for 1 hour, and the precipitate was filtered off with suction. The product was dried in vacuo, and 1.7 g of a colorless solid were obtained,

reactant | 4′-(4-chloro-5-formyl-2-phenylimidazol-1-ylmethyl)biphenyl-2-sulfonic acid dimethylaminomethylenamide | 1.9 g | CN(C)C=NS(=O)(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)CN1C(=NC(=C1C=O)Cl)C1=CC=CC=C1 | C26H23ClN4O3S
reactant | HCl | 20 ml | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4′-(4-Chloro-5-formyl-2-phenylimidazol-1-ylmethyl)biphenyl-2-sulfonamide | 1.7 g | ClC=1N=C(N(C1C=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)N)C1=CC=CC=C1 | C23H18ClN3O3S
